US04282169
Preparation of 1-Trichloroacetimidoyl-2-Acetylhydrazine
A mixture of 5.0 g (0.07 mole) acetylhydrazine and 20 ml (28.5 g, 0.16 mole) methyl 2,2,2-trichloroacetimidate was stirred 16 hours at room temperature. The resulting solid was recrystallized from toluene to yield 7.3 g. Addition of petroleum ether to the filtrate gave another 1.5 g. The total yield was 8.8 g (59%; mp 130°-132° C.). An analytical sample (mp 131°-132° C.) was prepared by recrystallization from toluene. The structure was confirmed via infrared and elemental analysis.

reactant | acetylhydrazine | 0.07 mole, 5.0 g | C(C)(=O)NN | C2H6N2O
reactant | methyl 2,2,2-trichloroacetimidate | 0.16 mole, 20 ml, 28.5 g | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Trichloroacetimidoyl-2-Acetylhydrazine | ClC(C(=N)NNC(C)=O)(Cl)Cl | C4H6Cl3N3O
